US08071592B2
7-Fluoro-2-oxo-1-[2-(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)ethyl]-1,2-dihydro-4-quinolinecarbonitrile Dihydrochloride
To a solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2-oxo-1,2-dihydro-4-quinolinecarbonitrile hydrochloride (0.062 g, 0.16 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e))(0.028 g, 0.16 mmol) in 1:1 chloroform/methanol (6 ml) was added sodium acetate (00.10 g, 12 mmol), acetic acid (0.5 ml) and 3A sieves and the mixture stirred for 1 h. Polymer supported cyanoborohydride (0.10 g) was added and the mixture stirred for 18 h, then filtered and the solid washed with dichloromethane. The organics were washed with sodium carbonate solution, dried and concentrated. Chromatography over silica (10 g SPE gradient elution with dichloromethane/methanol 0-15%) provided the product which was dissolved in dichloromethane and treated with 4M HCl in 1,4-dioxane. The precipitate was isolated and washed with ether then dried to provide the title compound (0.048 g, 55%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-2-oxo-1,2-dihydro-4-quinolinecarbonitrile hydrochloride | 0.16 mmol, 0.062 g | Cl.NC1CCN(CC1)CCN1C(C=C(C2=CC=C(C=C12)F)C#N)=O
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | sodium acetate | 12 mmol | C(C)(=O)[O-].[Na+]
reactant | cyanoborohydride | 0.10 g | C(#N)[BH3-]
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | chloroform methanol | 6 ml | C(Cl)(Cl)Cl.CO
product | 7-Fluoro-2-oxo-1-[2-(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)ethyl]-1,2-dihydro-4-quinolinecarbonitrile Dihydrochloride | 0.048 g, 55% | Cl.Cl.FC1=CC=C2C(=CC(N(C2=C1)CCN1CCC(CC1)NCC=1C=CC=2OCC(NC2N1)=O)=O)C#N | InChI=1S/C25H25FN6O3.2ClH/c26-17-1-3-20-16(13-27)11-24(34)32(21(20)12-17)10-9-31-7-5-18(6-8-31)28-14-19-2-4-22-25(29-19)30-23(33)15-35-22;;/h1-4,11-12,18,28H,5-10,14-15H2,(H,29,30,33);2*1H
